US05206266
Methyl α-[2-(3-(1-ethoxyiminoethyl)phenoxymethyl)phenyl]-β-methoxyacrylate
7.5 g (0.042 mol) of 3-(1-ethoxyiminoethyl)phenol and 10.0 g (0.035 mol) methyl α-(2-bromomethylphenyl)-β-methoxyacrylate are dissolved in 100 ml of dimethylformamide, and 7.3 g (0.053 mol) of potassium carbonate are added. The mixture is stirred at room temperature (20° C.) for 48 hours, hydrolyzed with water and extracted with diethyl ether. The organic phase is washed with water, dried over magnesium sulfate and concentrated. The resulting oil is purified by chromatography on alumina (cyclohexane). 7.3 g (54%) of the title compound are obtained as a colorless oil (compound no. 447).

reactant | 3-(1-ethoxyiminoethyl)phenol | 0.042 mol, 7.5 g | C(C)ON=C(C)C=1C=C(C=CC1)O | C10H13NO2
reactant | methyl α-(2-bromomethylphenyl)-β-methoxyacrylate | 0.035 mol, 10.0 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=COC | C12H13BrO3
reactant | potassium carbonate | 0.053 mol, 7.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl α-[2-(3-(1-ethoxyiminoethyl)phenoxymethyl)phenyl]-β-methoxyacrylate | 7.3 g, 54% | C(C)ON=C(C)C=1C=C(OCC2=C(C=CC=C2)C(C(=O)OC)=COC)C=CC1 | C22H25NO5
